US05359098
A mixture of 6-hydroxyflavone (5.0 g, 21 mmol), 1-bromo-4-chlorobutane (4.86 mL, 42 mmol), and potassium carbonate (12 g, 84 mmol) was refluxed in acetone for 24 hours. The solution was cooled to room temperature, filtered, and the solvent removed in vacuo. The residue was boiled with ether and filtered. Cooling gave 6.1 g (89%) of 6-(4-chlorobutoxy)-2-phenyl-4H-1-benzopyran-4-one as a white solid.

reactant | 6-hydroxyflavone | 21 mmol, 5.0 g | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-4-chlorobutane | 42 mmol, 4.86 mL | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | 84 mmol, 12 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 6-(4-chlorobutoxy)-2-phenyl-4H-1-benzopyran-4-one | 6.1 g, 89% | ClCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1 | C19H17ClO3
